US09233981B1
Step 2. Synthesis of (4R,4aR,6S,8aS)-2-(benzoylamino)-8a-(2,4-difluorophenyl)-4-methyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-6-yl acetate (C23)
To a solution of (4R,4aR,6R,8aS)-2-(benzoylamino)-8a-(2,4-difluorophenyl)-4-methyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazine-6-carboxylic acid (C22) (5.0 g, 10.0 mmol) in tetrahydrofuran (130 mL) and acetic acid (25 mL) was added lead(IV) acetate (31.2 g, 70.4 mmol). After stirring at room temperature for 18 hours, the reaction mixture was diluted with ethyl acetate and filtered through diatomaceous earth. The filtrate was concentrated in vacuo and the residue was purified via chromatography on silica gel (Gradient: 0% to 100% ethyl acetate in heptane), affording the product as a white solid. Yield: 2.75 g, 5.98 mmol, 50%. 1H NMR (400 MHz, CDCl3) characteristic peaks δ 8.20 (br d, J=7.0 Hz, 2H), 7.35-7.55 (m, 4H), 6.87-7.01 (m, 2H), 6.34 (br d, J=2.5 Hz, 1H), 4.55 (d, J=12.1 Hz, 1H), 3.59 (d, J=12.3 Hz, 1H), 3.21-3.31 (m, 2H), 1.84 (dd, J=14.6, 3.4 Hz, 1H), 1.26 (d, J=6.8 Hz, 3H).

reactant | (4R,4aR,6R,8aS)-2-(benzoylamino)-8a-(2,4-difluorophenyl)-4-methyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazine-6-carboxylic acid | 10.0 mmol, 5.0 g | C(C1=CC=CC=C1)(=O)NC=1S[C@@H]([C@H]2[C@@](N1)(CO[C@H](C2)C(=O)O)C2=C(C=C(C=C2)F)F)C | C22H20F2N2O4S
reactant | lead(IV) acetate | 70.4 mmol, 31.2 g | C(C)(=O)[O-].[Pb+4].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-]
solvent | tetrahydrofuran | 130 mL | O1CCCC1 | C4H8O
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4R,4aR,6S,8aS)-2-(benzoylamino)-8a-(2,4-difluorophenyl)-4-methyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-6-yl acetate | C(C)(=O)O[C@H]1C[C@@H]2[C@@](N=C(S[C@@H]2C)NC(C2=CC=CC=C2)=O)(CO1)C1=C(C=C(C=C1)F)F | C23H22F2N2O4S
